US06211199B1
40.1 Synthesis of 1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1-(pyrid-4-ylmethyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-(3,4-difluorophenyl)pyrrolidine
Prepare by the method of Example 37.2 using 1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-(3,4-difluorophenyl)pyrrolidine (5 mmol) and 4-picolyl chloride hydrochloride to give the title compound.

reactant | 1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-(3,4-difluorophenyl)pyrrolidine | 5 mmol | COC=1C=C(C(=O)N2CC(CC2)(C2=CC(=C(C=C2)F)F)CCN2CCC(CC2)NC2=NC3=C(N2)C=CC=C3)C=C(C1OC)OC | C34H39F2N5O4
reactant | 4-picolyl chloride hydrochloride | Cl.N1=CC=C(C=C1)CCl
product | 1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1-(pyrid-4-ylmethyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-(3,4-difluorophenyl)pyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(C2=CC(=C(C=C2)F)F)CCN2CCC(CC2)NC2=NC3=C(N2CC2=CC=NC=C2)C=CC=C3)C=C(C1OC)OC | C40H44F2N6O4
